US06979696B2
To a solution of (4-Chloro-6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethyl-amine (0.73 g, 1.85 mmol) in benzene (20 ml) was added methyl iodide (0.52 g, 3.71 mmol). After stirring at ambient temperature for 16 hours, the solvent was removed under reduced pressure. The residue was suspended in anhydrous tetrahydrofuran (10 ml). To this solution was added, sequentially, trimethylsilyl cyanide (0.27 g, 2.78 mmol) and tetrabutylammonium fluoride (1.45 g, 5.56 mmol, 1M in tetrahydrofuran, after which the solution was stirred for an hour. After solvent was removed under reduced pressure, the residue was partitioned between water and ether. The ether extract was dried (anhydrous sodium sulfate) and concentrated under reduced pressure to give (4-Chloro-6-methoxy-1H-indol-3-yl)-acetonitrile as solid (0.41 g, quantitative). 1H NMR (CDCl3) δ: 3.82 (s, 3H), 4.10 (d, 2H, J+1.17 Hz), 6.79 (d, 1H, J=2.07 Hz), 6.79 (d, 1H, J=2.07), 7.16 (m, 1H), 8.11 (b, 1H).

reactant | (4-Chloro-6-methoxy-1-tri-tert-butylsilanyl-1H-indol-3-ylmethyl)-dimethyl-amine | 1.85 mmol, 0.73 g | ClC1=C2C(=CN(C2=CC(=C1)OC)[Si](C(C)(C)C)(C(C)(C)C)C(C)(C)C)CN(C)C | C24H41ClN2OSi
reactant | methyl iodide | 3.71 mmol, 0.52 g | CI | CH3I
reactant | trimethylsilyl cyanide | 2.78 mmol, 0.27 g | C[Si](C)(C)C#N | C4H9NSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | (4-Chloro-6-methoxy-1H-indol-3-yl)-acetonitrile | ClC1=C2C(=CNC2=CC(=C1)OC)CC#N | C11H9ClN2O
